data/mechanism_extracts/OrgChemFront/10.1039_d3qo01241g.json
{"doi": "10.1039_d3qo01241g", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical three-component vicinal sulfenyltetrazolation of unactivated alkenes using thiols, TMSN3, and acetonitrile via a Ritter-type intermediate that enables 1,3-dipole cycloaddition.", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic oxidation of triarylamine mediator (Ar3N) to its radical cation, which performs SET on thiol to generate a thiyl radical; cathode reduces protons to H2.", "key_intermediates": [{"name": "triarylamine radical cation (Ar3N•+)", "smiles": null, "role": "reactive"}, {"name": "thiyl radical (RS•)", "smiles": null, "role": "reactive"}, {"name": "β-thio carbon-centered radical (B)", "smiles": null, "role": "transient"}, {"name": "episulfonium ion (C)", "smiles": null, "role": "reactive"}, {"name": "β-sulfenyl Ritter-type nitrilium intermediate (D)", "smiles": null, "role": "reactive"}, {"name": "disulfide (RSSR, F)", "smiles": null, "role": "resting_state"}, {"name": "bis(arylthio)sulfonium ion (G)", "smiles": null, "role": "reactive"}, {"name": "vicinal azidosulfide (H)", "smiles": null, "role": "off_pathway"}, {"name": "vicinal sulfenyltetrazole product (E)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes Ar3N to Ar3N•+, which oxidizes/deprotonates thiol to thiyl radical; thiyl adds to alkene giving a C-radical that is further oxidized to an episulfonium cation, intercepted by MeCN to form a Ritter-type nitrilium that undergoes [3+2] with azide from TMSN3 to give the tetrazole; cathode reduces H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "disulfide (RSSR, 30)", "smiles": null, "purpose": "intermediate_trap", "observation": "Use of disulfide instead of thiol also gave vicinal sulfenyltetrazole 4 in comparable yield, supporting involvement of RS•/RSSR equilibrium."}, {"name": "BHT (2,6-di-tert-butyl-4-methylphenol)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction suppressed (n.d.); BHT-SR adduct detected by GC-MS, indicating thiyl radical involvement."}, {"name": "1-(2-phenylcyclopropyl)-vinyl)benzene (31)", "smiles": null, "purpose": "radical_clock", "observation": "Afforded ring-opened product 32 in 20% yield (7.6:1 dr), consistent with a carbon-centered radical intermediate."}, {"name": "cyclic voltammetry of Ar3N", "smiles": null, "purpose": "redox_probe", "observation": "Catalytic current and disappearance of Ar3N•+ reduction peak upon adding thiol; further enhanced with alkene, implicating Ar3N in two oxidation steps."}], "evidence_types_used": ["radical_clock", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two pathways to the episulfonium ion (C) are proposed: path a via oxidation of β-thio C-radical (B); path b via reaction of alkene with bis(arylthio)sulfonium ion (G) derived from disulfide (F). Competing nucleophilic addition of TMSN3 to C would give the off-pathway vicinal azidosulfide (H). Phosphate additive (NaPF6/Bu4NClO4 with phosphate) prolongs Ar3N•+ lifetime."}
